US04738975
To a solution of 4-chloro-3-methoxy-2-methylpyridine (3.2 g) in methanol (5 ml) was added dropwise under ice-cooling a solution of 28% sodium methylate in methanol (20 ml) and the mixture, refluxed for 10 hours, and concentrated to dryness. To the residue, were added ice-water (10 ml) and then chloroform (100 ml) in this order, and the chloroform layer was separated, washed with water, dried, and evaporated. The residue was purified by column chromatography on silica gel, to give 3,4-dimethoxy-2-methylpyridine (2.95 g) as a light brown oil.

reactant | 4-chloro-3-methoxy-2-methylpyridine | 3.2 g | ClC1=C(C(=NC=C1)C)OC | C7H8ClNO
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 3,4-dimethoxy-2-methylpyridine | 2.95 g | COC=1C(=NC=CC1OC)C | C8H11NO2
